US05688808
N-tert-Butyloxycarbonyl-4-bromomethyl-1,2-dihydro-2,2-dimethyl-6-phenyl quinoline (structure 12, where R1 =phenyl)
To a solution of N-tert-butyloxycarbonyl-1,2-dihydro-2,2-dimethyl-4-hydroxymethyl-6-phenylquinoline (structure 11, where R1 =phenyl) (230 mg, 0.630 mmol) and carbon tetrabromide (220 mg, 0.662 mmol) in 5 mL of dichloromethane at 0° C. was added triphenylphosphine (174 mg, 0.662 mmol) in 2 mL of dichloromethane. The reaction mixture was allowed to warm to rt and stirred for 1 h. The mixture was concentrated in vacuo to a residue that was subjected to flash chromatography (silica gel, hexane/ethyl acetate, 9:1) to give structure 12, where R1 =phenyl (72 mg, 27%). 1H NMR (acetone d6) 7.67 (m, 3H), 7.52 (dd, J=8.7, 2.1, 1H), 7.45 (t, 2H), 7.32 (m, 2H), 6.07 (s, 1H), 4.60 (s, 2H), 1.55 (s, 6H), 1.53 (s, 9H).

reactant | N-tert-butyloxycarbonyl-1,2-dihydro-2,2-dimethyl-4-hydroxymethyl-6-phenylquinoline | 0.630 mmol, 230 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=CC=CC=C1)CO)(C)C | C23H27NO3
reactant | carbon tetrabromide | 0.662 mmol, 220 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.662 mmol, 174 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-tert-Butyloxycarbonyl-4-bromomethyl-1,2-dihydro-2,2-dimethyl-6-phenyl quinoline | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=CC=CC=C1)CBr)(C)C | C23H26BrNO2
